US08703768B2
Step 4: 2-(2-Methoxy-ethylamino)-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 2-(2-methoxy-ethylamino)-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid ethyl ester (11 mg, 35 μmol) and 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methylamide hydrochloride (20 mg, 105 μmol) according to the method described in example 104 after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (0.5 mg, 3%).

reactant | 2-(2-methoxy-ethylamino)-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid ethyl ester | 35 μmol, 11 mg | C(C)OC(=O)C1=NC(=NC=C1NC=1C=NC=NC1)NCCOC | C14H18N6O3
reactant | 4-amino-1-methyl-1H-pyrazole-3-carboxylic acid methylamide hydrochloride | 105 μmol, 20 mg | Cl.CNC(=O)C1=NN(C=C1N)C
product | 2-(2-Methoxy-ethylamino)-5-(pyrimidin-5-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=C(C(=C1)NC(=O)C1=NC(=NC=C1NC=1C=NC=NC1)NCCOC)C(NC)=O | C18H22N10O3
